US08604029B2
To a solution of methyltriphenylphosphonium bromide (1.07 g, 3 mmol) in THF (10 mL) was added 2.5 M n-BuLi solution (1.6 mL, 4 mmol) at −70° C. The mixture was warmed to r.t. and stirred for 15 min then cooled once more to −70° C. A solution of 1-(4-nitro-phenyl)-piperidin-4-one (396 mg, 1.8 mmol) in THF (10 mL) was added then the mixture was allowed to warm to r.t. and stirred overnight. The reaction was quenched by addition of ice and extracted with ethyl acetate. The combined organic layers were then washed with water, brine and dried over sodium sulfate. Concentration to dryness afforded 4-methylene-1-(4-nitrophenyl)-piperidine (240 mg, 61%) as a solid.

reactant | n-BuLi | 4 mmol, 2.5 M, 1.6 mL | [Li]CCCC
reactant | 1-(4-nitro-phenyl)-piperidin-4-one | 1.8 mmol, 396 mg | [N+](=O)([O-])C1=CC=C(C=C1)N1CCC(CC1)=O | C11H12N2O3
catalyst | methyltriphenylphosphonium bromide | 3 mmol, 1.07 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-methylene-1-(4-nitrophenyl)-piperidine | 240 mg, 61% | C=C1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H14N2O2
